US05300647
4-Benzoyloxy-1-n-butylcarbamoyloxy-2,2,6,6-tetramethylpiperidine
A solution of 4.66 g (40 mmol) of n-butyl isocyanate in 10 ml of toluene is added over 10 minutes to a suspension of 10.6 g (38.2 mmol) of 1-hydroxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine in 40 ml of toluene. The reaction mixture is heated at 50° C. for 30 minutes. The reaction mixture is then filtered, and the residue from evaporation of the filtrate is crystallized from hexane to give 4.2 g (29% yield) of a white solid, m.p. 126-27° C.

reactant | n-butyl isocyanate | 40 mmol, 4.66 g | C(CCC)N=C=O | C5H9NO
reactant | 1-hydroxy-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 38.2 mmol, 10.6 g | ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C16H23NO3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Benzoyloxy-1-n-butylcarbamoyloxy-2,2,6,6-tetramethylpiperidine | 4.2 g, 29% yield | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC(NCCCC)=O)(C)C | C21H32N2O4
